US04443466
4-(4'-Amino-3',5'-dichlorobenzyl)-5-methylimidazole
A mixture of 6.0 g of 4-chloromethyl-5-methylimidazole hydrochloride, 9.0 g of 2,6-dichloroaniline and 40 ml of xylene is refluxed with stirring for 3 hours. The mixture is then filtered and the precipitate is washed with xylene. The precipitate is dissolved in 50 ml of water and the pH is adjusted to 8. The solution is extracted with toluene (3×30 ml). The combined toluene extracts are washed with 10 ml of water and evaporated to dryness. The residue, which is crude 4-(4'-amino-3',5'-dichlorobenzyl)-5-methylimidazole, is converted to the hydrochloride in isopropanol with HCl-ethyl acetate. The free base is liberated from the hydrochloride in water with sodium hydroxide. The melting point of the base is 172°-175° C.

reactant | 4-chloromethyl-5-methylimidazole hydrochloride | 6.0 g | Cl.ClCC=1N=CNC1C
reactant | 2,6-dichloroaniline | 9.0 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4'-Amino-3',5'-dichlorobenzyl)-5-methylimidazole | NC1=C(C=C(CC=2N=CNC2C)C=C1Cl)Cl | C11H11Cl2N3
